US06924278B2
Diethyl 2-acetylamino-2-(3,4-dimethylbenzyl)malonate (13.8 g) and potassium hydroxide (2.76 g) were dissolved into a mixed solution of ethanol (138 ml) and water (138 ml) and the solution was stirred under reflux for 8.5 hours. After being cooled to room temperature, the solution was concentrated under reduced pressure and the resulting aqueous solution was adjusted to pH 10 with aqeuous saturated sodium hydrogen carbonate solution. The solution was washed with ethyl acetate and made acidic with diluted hydrochloric acid, and extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated under reduced pressure to give crystals of N-acetyl-3,4-dimethyl-DL-phenylalanine (5.42 g).

reactant | Diethyl 2-acetylamino-2-(3,4-dimethylbenzyl)malonate | 13.8 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=CC(=C(C=C1)C)C | C18H25NO5
reactant | potassium hydroxide | 2.76 g | [OH-].[K+]
reactant | ethanol | 138 ml | C(C)O | C2H6O
solvent | water | 138 ml | O | H2O
product | N-acetyl-3,4-dimethyl-DL-phenylalanine | 5.42 g | C(C)(=O)NC(CC1=CC(=C(C=C1)C)C)C(=O)O | C13H17NO3
